US05089043
Into a mixture of IN aqueous sodium hydroxide solution (48 ml) and methanol (300 ml), N-methoxycarbonyl-methoxy-2-[4-(3,5-dichloro-2-pyridyloxy)phenoxy]propionamide (Compound No. 38 as obtained in Example 1) (9.4 g) was dissolved, and the resultant mixture was stirred at 50° C. for 1 hour. After removal of methanol by distillation, the aqueous layer was made acidic with conc. hydrochloric acid and extracted with ethyl acetate. Removal of the ethyl acetate from the extract by distillation gave N-hydroxy-carbonylmethoxy-2-[4-(3,5-dichloro-2-pyridyloxy)phenoxy]-propionamide (9.0 g). Yield, 98%.

reactant | sodium hydroxide | 48 ml | [OH-].[Na+]
reactant | N-methoxycarbonyl-methoxy-2-[4-(3,5-dichloro-2-pyridyloxy)phenoxy]propionamide | COC(=O)NC(C(C)(OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)Cl)OC)=O | C17H16Cl2N2O6
reactant | methanol | 300 ml | CO | CH4O
product | N-hydroxy-carbonylmethoxy-2-[4-(3,5-dichloro-2-pyridyloxy)phenoxy]-propionamide | 9.0 g | ONC(C(C)(OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)Cl)OC=C=O)=O | C16H12Cl2N2O6
